US08067447B2
To a solution of (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol (1.2 g, 3.77 mmol) from experimental (1f) in 200 mL of CH2Cl2 was added Dess-Martin Periodinane (2.0 g, 4.71 mmol) portionwise. After 12 h, the reaction was quenched with 1M NaOH and extracted with 3×CH2Cl2. The CH2Cl2 extracts were dried over MgSO4, filtered, and concentrated by rotary evaporator to give (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanone in 100% yield. MS found: (M+H)+=317.

reactant | (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol | 3.77 mmol, 1.2 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(O)C1=CC=CC=C1 | C20H15FN2O
reactant | Dess-Martin Periodinane | 4.71 mmol, 2.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanone | 100% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(=O)C1=CC=CC=C1 | C20H13FN2O
